US05292732
For the cleavage of the acetal, 8 ml of 10% aqueous oxalic acid solution were applied to 50 g of silica gel and 2.1 of 6-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde dimethyl acetal were chromatographed on this mixture with methylene chloride as the eluent. There were obtained 1.7 g (98%) of 6-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthalene-acetaldehyde.

reactant | oxalic acid | 8 ml | C(C(=O)O)(=O)O | C2H2O4
reactant | 6-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde dimethyl acetal | COC(CC1C(C2=CC=C(C=C2CC1)Cl)=O)OC | C14H17ClO3
product | 6-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthalene-acetaldehyde | 1.7 g, 98% | ClC=1C=C2CCC(C(C2=CC1)=O)CC=O | C12H11ClO2
